US07332629B2
To a stirred solution of Isopropyl 2-isopropoxy-benzoate (10 g, 240 mmol) in dimethyl sulfoxide (40 mL) was added potassium tert-butoxide (10 g, 890 mmol) in portions. The solution was heated to 70° C. on a water bath for 2 h, and the progress of the reaction was monitored by TLC using a hexane-ethyl acetate (8:2) solvent system. The reaction mass was cooled to 10° C., poured into ice water, and then acidified with 5% dilute hydrochloric acid. The precipitated solid was filtered and washed thoroughly with distilled water, and the crude mass was recrystallized in hexane (50 mL) to yield an off-white solid of 2-Isopropoxy-benzoic Acid (7.6 g, 80%).

reactant | Isopropyl 2-isopropoxy-benzoate | 240 mmol, 10 g | C(C)(C)OC1=C(C(=O)OC(C)C)C=CC=C1 | C13H18O3
reactant | potassium tert-butoxide | 890 mmol, 10 g | CC(C)([O-])C.[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 2-Isopropoxy-benzoic Acid | 7.6 g, 80% | C(C)(C)OC1=C(C(=O)O)C=CC=C1 | C10H12O3
